US06613761B1
To a solution of (3R,5S)-7-chloro-1-(3-hydroxy-2-hydroxymethyl-2-methylpropyl)-5-(2,3-dimethoxyphenyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid ethyl ester (1.0 g) in ethanol (10 ml) was added a 1N aqueous solution of sodium hydroxide. The mixture was stirred at 60° C. for one hour. To the reaction mixture was added water, which was neutralized with 1N HCl, followed by subjecting to extraction with ethyl acetate. The extract solution was dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was recrystallized from a mixture of ethyl acetate and hexane to afford 0.38 g of (3R,5S)-7-chloro-1-(3-hydroxy-2-hydroxymethyl-2-methylpropyl)-5-(2,3-dimethoxyphenyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid, m.p. 208-210° C.

reactant | (3R,5S)-7-chloro-1-(3-hydroxy-2-hydroxymethyl-2-methylpropyl)-5-(2,3-dimethoxyphenyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid ethyl ester | 1.0 g | C(C)OC(C[C@@H]1C(N(C2=C([C@H](O1)C1=C(C(=CC=C1)OC)OC)C=C(C=C2)Cl)CC(CO)(C)CO)=O)=O | C26H32ClNO8
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (3R,5S)-7-chloro-1-(3-hydroxy-2-hydroxymethyl-2-methylpropyl)-5-(2,3-dimethoxyphenyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid | 0.38 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(CO)(C)CO)=O)CC(=O)O)C2=C(C(=CC=C2)OC)OC)C1 | C24H28ClNO8
